*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/1.00e-03[uF]/50[V]
* Murata P/N :GRM155B11H102KA01
* Property : C = 1.00e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B11H102KA01 Port1 Port2
C01 Port1 N01 9.84e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.47e-10
R03 N02 N03 1.62e-01
C04 N03 N04 1.23e-07
R04 N03 N04 2.24e+04
C05 N04 N05 4.81e-07
R05 N04 N05 1.62e+03
C06 N05 N06 2.07e-07
R06 N05 N06 7.94e+02
C07 N06 N07 1.99e-07
R07 N06 N07 1.41e+02
C08 N07 N08 1.19e-07
R08 N07 N08 2.40e+01
C09 N08 N09 8.47e-08
R09 N08 N09 3.12e+00
C10 N09 N10 6.20e-08
R10 N09 N10 7.16e-01
C11 N10 N11 2.16e-08
R11 N10 N11 2.97e-01
C12 N11 N12 3.56e-09
R12 N11 N12 2.08e-01
L13 N12 N13 2.67e-11
R13 N12 N13 6.72e-01
C14 N13 N14 2.68e-10
L14 N13 N14 5.25e-11
R14 N13 N14 2.78e-01
C15 N14 Port2 1.90e-12
L15 N14 Port2 1.74e-10
R15 N14 Port2 2.21e+01
.ENDS GRM155B11H102KA01
